US08026257B2
tert-Butyl 4-(((5-(4-cyanophenyl)-1-(cyclopropylmethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate.
Following the procedure is described in the literature (Lee, S. H. et. al. J. Org. Chem. 2004, 69, 8829-8835). tert-Butyl 4-(((5-bromo-1-(cyclopropylmethyl)-1H-benzo-[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (48 mg, 0.087 mmol) was subjected to Suzuki coupling reaction in toluene (1.0 mL) at 110° C. with p-cyanophenylboronic acid (3 equiv) and cesium carbonate (3 equiv) using Pd (dppf) (0.08 equiv) as catalyst. The crude product was purified by silica gel chromatography using a 50 min linear gradient of 12% -100% ethyl acetate in hexane. Fractions containing the required product were combined and evaporated in vacuo to give 23 mg (46%) as a gum. 1H-NMR (CD3OD, 500 MHz) δ 7.91 (s, 1H), 7.85 (d, JAB=8.5 Hz, 2H), 7.80 (d, JAB=8.5 Hz, 2H), 7.65-7.60 (m, 2H), 7.36-7.29 (m, 4H), 7.21 (m, 1H), 4.71 (s, 2H), 3.82, (d, J=7.0 Hz, 2H), 3.72 (m, 2H), 3.58 (s, 2H), 3.04 (m, 2H), 2.20 (m, 2H), 1.84 (m, 2H), 1.42 (s, 9H), 1.04 (m, 1H), 0.50-0.47 (m, 2H), 0.33-0.30 (m, 2H); 13C NMR (CD3OD, 126 MHz,) δ 155.7, 151.9, 146.5, 143.1, 142.2, 136.2, 134.3, 132.8, 128.5, 128.0, 127.3, 126.4, 122.9, 118.9, 117.6, 111.6, 110.4, 80.0, 79.9, 65.6, 41.6, 32.1, 27.7, 11.0, 3.6. Mass Spec.: 577(MH)+.

reactant | tert-Butyl 4-(((5-bromo-1-(cyclopropylmethyl)-1H-benzo-[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.087 mmol, 48 mg | BrC1=CC2=C(N(C(=N2)COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)CC2CC2)C=C1 | C29H36BrN3O3
reactant | p-cyanophenylboronic acid | 3 equiv | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | cesium carbonate | 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd | 0.08 equiv | [Pd] | Pd
product | tert-Butyl 4-(((5-(4-cyanophenyl)-1-(cyclopropylmethyl)-1H-benzo[d]imidazol-2-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | C(#N)C1=CC=C(C=C1)C1=CC2=C(N(C(=N2)COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)CC2CC2)C=C1 | C36H40N4O3
